US09126969B2
1.2 mL of 1-piperidinecarbonyl chloride and 1.7 mL of N,N-diisopropylethylamine are added to a solution of 480 mg of 4-{2-[4-amino-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-6-fluoro-3H-benzimidazol-5-yl}piperazine-1-carboxylic acid tert-butyl ester in 10 mL of THF. The reaction mixture is heated at 80° C. for 16 hours. The reaction medium is cooled to ambient temperature and 20 mL of a saturated solution of sodium bicarbonate are added. The aqueous phases are extracted with 3 times 10 mL of EtOAc. The organic phases are dried over MgSO4, filtered and concentrated under vacuum in a rotary evaporator. The reaction crude is purified by flash chromatography, elution being carried out with a mixture of cyclohexane/ethyl acetate. 350 mg of 4-{6-fluoro-2-[4-[(piperidine-1-carbonyl)amino]-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-3H-benzimidazol-5-yl}piperazine-1-carboxylic acid tert-butyl ester are obtained in the form of a brown foam. 1H NMR (400 MHz, DMSO-d6, δ in ppm): from 1.37 to 2.22 (m, 12H); 1.42 (s, 9H); 3.04 (m, 4H); 3.44 (m, 4H); 3.53 (m, 4H); 3.67 (m, 1H); 3.96 (m, 1H); 5.52 (dd, J=2.0 and 10.0 Hz, 1H); 7.29 (d, J=7.5 Hz, 1H); 7.56 (d, J=11.5 Hz, 1H); 8.15 (s, 1H). ES mass spectrum: m/z=597 MH+ (base peak).

reactant | 1-piperidinecarbonyl chloride | 1.2 mL | N1(CCCCC1)C(=O)Cl | C6H10ClNO
reactant | N,N-diisopropylethylamine | 1.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-{2-[4-amino-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-6-fluoro-3H-benzimidazol-5-yl}piperazine-1-carboxylic acid tert-butyl ester | 480 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC2=C(N=C(N2)C2=NN(C=C2N)C2OCCCC2)C=C1F | C24H32FN7O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-{6-fluoro-2-[4-[(piperidine-1-carbonyl)amino]-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-3H-benzimidazol-5-yl}piperazine-1-carboxylic acid tert-butyl ester | 350 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC2=C(N=C(N2)C2=NN(C=C2NC(=O)N2CCCCC2)C2OCCCC2)C=C1F | C30H41FN8O4
